US06359145B1
To a stirred solution of Pd(OAc)2 (340 mg), nBu3P (613 mg), and Et3N (1.99 g) in DMF (30 ml) was added methyl 2-hydroxy-3-butenoate (1.76 g) followed by 1-iodonaphthalene (5.0 g), and the reaction mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was poured into water (300 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel (130 g) column chromatography eluting with hexane/ethyl acetate (50:1) to give methyl 4-(1-naphthyl)-2-oxobutyrate (254 mg) as a red oil.

reactant | nBu3P | 613 mg | P(CCCC)(CCCC)CCCC | C12H27P
reactant | Et3N | 1.99 g | CCN(CC)CC | C6H15N
reactant | methyl 2-hydroxy-3-butenoate | 1.76 g | OC(C(=O)OC)C=C | C5H8O3
reactant | 1-iodonaphthalene | 5.0 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 340 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 300 ml | O | H2O
product | methyl 4-(1-naphthyl)-2-oxobutyrate | 254 mg | C1(=CC=CC2=CC=CC=C12)CCC(C(=O)OC)=O | C15H14O3
